US09029366B2
Na2CO3 (25 g, 235.85 mmol) was added to a solution of ethyl 3-(benzyloxy)-1-[3-amino-propyl]-1H-pyrazole-5-carboxylate (5.5 g, 16.2 mmol) in water (150 mL). The mixture was stirred at room temperature for 18 hours and then extracted with AcOEt. The organic layer was separated, dried (Na2SO4), filtered and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; AcOEt in petroleum ether 0/100 to 50/50). The desired fractions were collected and the solvents evaporated in vacuo to yield 2-(benzyloxy)-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepin-4-one (4 g, 73% yield).

reactant | Na2CO3 | 235.85 mmol, 25 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl 3-(benzyloxy)-1-[3-amino-propyl]-1H-pyrazole-5-carboxylate | 16.2 mmol, 5.5 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(=O)OCC)CCCN | C16H21N3O3
solvent | water | 150 mL | O | H2O
product | 2-(benzyloxy)-5,6,7,8-tetrahydro-4H-pyrazolo[1,5-a][1,4]diazepin-4-one | 4 g, 73% yield | C(C1=CC=CC=C1)OC1=NN2C(C(NCCC2)=O)=C1 | C14H15N3O2
